US07674789B2
7c) N-{3-[8-(2,6-Difluorophenyl)-2-(methylthio)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylphenyl}-3-thiophenecarboxamide
The title compound was prepared from 5-Chloro-1-(2,6-difluorophenyl)-7-(methylthio)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one by following the procedures in Example 1d except using N-[4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-3-thiophenecarboxamide for the Suzuki cross-coupling reaction. LC-MS m/z 524 (M+H)+, 2.21 min (ret. time). xdb

reactant | 5-Chloro-1-(2,6-difluorophenyl)-7-(methylthio)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | ClC1=C2C(=NC(=N1)SC)N(C(NC2)=O)C2=C(C=CC=C2F)F | C13H9ClF2N4OS
reactant | N-[4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-3-thiophenecarboxamide | CC1=C(C=C(C=C1)NC(=O)C1=CSC=C1)B1OC(C(O1)(C)C)(C)C | C18H22BNO3S
product | N-{3-[8-(2,6-Difluorophenyl)-2-(methylthio)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methylphenyl}-3-thiophenecarboxamide | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C=CC2C)NC(=O)C2=CSC=C2)SC)=O | C25H19F2N5O2S2
